US08912186B2
1) 3-(Biphenyl-4-yl)-1-(naphthalen-2-yl)prop-2-en-1-one
Synthesised according to example 1.59.1 using biphenyl-4-carbaldehyde (5.0 g, 29.3 mmol) and 1-(naphthalen-2-yl)ethanone (5.35 g, 29.3 mmol); yellow solid; yield: 7.80 g (79%);

reactant | biphenyl-4-carbaldehyde | 29.3 mmol, 5.0 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | 1-(naphthalen-2-yl)ethanone | 29.3 mmol, 5.35 g | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 3-(Biphenyl-4-yl)-1-(naphthalen-2-yl)prop-2-en-1-one | C1(=CC=C(C=C1)C=CC(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C25H18O
